US07842696B2
LiOH (293 mg, 6.9 mmol) was added to a stirred solution of [(biphenyl-4-carbonyl)-methyl-amino]-acetic acid methyl ester (330 mg, 1.1 mmol) in THF:MeOH:H2O (2:2:1, 10 mL), and the resulting mixture was stirred at room temperature for 4 hrs. The reaction mixture was concentrated under reduced pressure to get the residue. Cold water was then added and acidified it with 10% aqueous HCl, filtered the solid precipitated to afford 250 mg (79.7% yield) of [(biphenyl-4-carbonyl)-methyl-amino]-acetic acid.

reactant | LiOH | 6.9 mmol, 293 mg | [Li+].[OH-]
reactant | [(biphenyl-4-carbonyl)-methyl-amino]-acetic acid methyl ester | 1.1 mmol, 330 mg | COC(CN(C)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C17H17NO3
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | THF MeOH H2O | 10 mL | C1CCOC1.CO.O
product | [(biphenyl-4-carbonyl)-methyl-amino]-acetic acid | 250 mg, 79.7% yield | C1(=CC=C(C=C1)C(=O)N(C)CC(=O)O)C1=CC=CC=C1 | C16H15NO3
